US06355702B1
Synthesis of 2,7-Dimethyl-2,7-Octanediol Diacrylate
To a 300-mL three-necked round-bottom flask fitted with nitrogen inlet, magnetic stirrer, and a dropping funnel, 8.7 g (0.05 mol) of 2,7-dimethyl-2,7-octanediol prepared as in Background Example 1, 16.7 mL (0.12 mol) of triethylamine (Fisher), 1.46 g (0.012 mol) of 4-(dimethylamino) pyridine (Aldrich), and 80 ml of dry THF were added under nitrogen atmosphere, and the solution was cooled to 0° C. The mixture of 10.8 g (0.12 mol) of distilled acryloyl chloride (Aldrich) and 20 mL of dry THF was added dropwise. After 2 hours of stirring, the reaction vessel was allowed to warm to room temperature and stirring was continued overnight. Precipitated salts were removed by filtration. A 150 mL volume of diethyl ether was added to the filtrate, and the resulting precipitate was also removed by filtration. The reaction mixture was washed with distilled water and dilute aqueous sodium bicarbonate and was dried with anhydrous magnesium sulfate. Evaporation of the solvents gave an oily residue, which was then purified by column chromatography (silica gel/hexanes). A colorless oily liquid was obtained, yield 3.2 g (23%). 1HNMR(CDCl3), δ from TMS: 1.29 [m, 4H —CH2CH2C(CH3)2O—], 1.42 [s, 12H, —C(CH3)2O—], 1.74 [m, 4H, —CH2CH2C(CH3)2O—], 5.66, 6.25 [m, 4H, CH2═CH—]. 5.98 [m, 2H, CH2═CH—]. IR (film): 2978, 2943, 2868 cm−1(C—H stretch); 1722 cm−1(C═O stretch); 1636, 1620 cm−1(C═C stretch); 1299, 1205 cm−1(C—O—C stretch); 985 cm−1(═CH wag); 964 cm−1(═CH2 wag); 812 c−1(═CH2 twist).

reactant | 2,7-dimethyl-2,7-octanediol | 0.05 mol, 8.7 g | CC(C)(CCCCC(C)(O)C)O | C10H22O2
reactant | triethylamine | 0.12 mol, 16.7 mL | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.12 mol, 10.8 g | C(C=C)(=O)Cl | C3H3ClO
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 80 ml | C1CCOC1 | C4H8O
catalyst | 4-(dimethylamino) pyridine | 0.012 mol, 1.46 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2,7-Dimethyl-2,7-Octanediol Diacrylate | C(C=C)(=O)OC(C)(CCCCC(C)(OC(C=C)=O)C)C | C16H26O4
